US04082851
B. 3-n-Butylamino-4-phenoxy-5-sulfamylbenzylamine hydrochloride
A mixture of 3-n-butylamino-4-phenoxy-5-sulfamylbenzaldoxime (3.6 g), stannous chloride dihydrate (12 g), concentrated hydrochloric acid (25 ml) and acetic acid (50 ml) is heated on a steam-bath for 2- 3 hours. After concentration in vacuo to about 50 ml, 3-n-butylamino-4-phenoxy-5sulfamylbenzylamine hydrochloride starts to crystallize from the solution. After cooling, the hydrochloride is collected by filtration, washed with ethanol and dried in air. After recrystallization from 2-methoxyethanol it is obtained with a melting point higher than 300° C.

reactant | 3-n-butylamino-4-phenoxy-5-sulfamylbenzaldoxime | 3.6 g | C(CCC)NC=1C=C(C=NO)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C17H21N3O4S
reactant | hydrochloric acid | 25 ml | Cl | ClH
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 3-n-Butylamino-4-phenoxy-5-sulfamylbenzylamine hydrochloride | Cl.C(CCC)NC=1C=C(CN)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | InChI=1S/C17H23N3O3S.ClH/c1-2-3-9-20-15-10-13(12-18)11-16(24(19,21)22)17(15)23-14-7-5-4-6-8-14;/h4-8,10-11,20H,2-3,9,12,18H2,1H3,(H2,19,21,22);1H
